US04093812
Heat 2.0 g of 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde together with 2.5 g of 3-hydrazinoquinoline dihydrochloride and 1.8 g of anhydrous sodium acetate in 40 ml of ethanol for 3 hours at boiling point and then allow the resulting admixture to stand overnight. Separate the formed precipitate by filtration and stir it up with a little water to obtain an 86% yield of 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde-3-quinolylhydrazone [m.p. 236° to 238° C (with decomposition)].

reactant | 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde | 2.0 g | CN1N=C(C(=C1)C=O)C=1OC(=CC1)[N+](=O)[O-] | C9H7N3O4
reactant | 3-hydrazinoquinoline dihydrochloride | 2.5 g | Cl.Cl.N(N)C=1C=NC2=CC=CC=C2C1
reactant | sodium acetate | 1.8 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde-3-quinolylhydrazone | 86% yield | N1=CC(=CC2=CC=CC=C12)NN=CC=1C(=NN(C1)C)C=1OC(=CC1)[N+](=O)[O-] | C18H14N6O3
